US06333324B1
A solution of ethyl 1-tert-butoxycarbonyl-1,4,5,6-tetrahydropyrazine-2-carboxylate (69.0 g) in acetic acid (AcOH, 500 ml) was subjected to catalytic reduction using platinum dioxide (4.0 g) at 40° C. in hydrogen at 3 atm for 4 hours. The catalyst was removed by filtration, and the filtrate was concentrated in vacuo. The residue was dissolved in H2O (800 ml) and the solution was washed with Et2O (500 ml×2). To the aqueous layer was added NaHCO3 to adjust the pH of the solution to 8 and the solution was extracted with AcOEt (800 ml×2). The combined organic layer was washed with saturated aqueous NaHCO3 solution and brine, dried over MgSO4 and concentrated in vacuo to give 62.8 g of ethyl 1-tert-butoxycarbonyl- piperazine-2-carboxylate as an oil.

reactant | ethyl 1-tert-butoxycarbonyl-1,4,5,6-tetrahydropyrazine-2-carboxylate | 69.0 g | C(C)(C)(C)OC(=O)N1C(=CNCC1)C(=O)OCC | C12H20N2O4
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | hydrogen | [H][H] | H2
catalyst | platinum dioxide | 4.0 g | [Pt](=O)=O
product | ethyl 1-tert-butoxycarbonyl- piperazine-2-carboxylate | 62.8 g | C(C)(C)(C)OC(=O)N1C(CNCC1)C(=O)OCC | C12H22N2O4
